US07230011B2
7-Methyl-3-(1-methylpiperidin-4-yl)-1H-indole-5-ol
In a round bottom flask was placed 5-methoxy-7-methyl-3-(1-methylpiperidin-4-yl)-1H-indole (3.9 mmole, 1.01 g) and pyridine hydrochloride (25 g). The flask was then placed in a preheated oil bath set at 190° C. for 45 minutes. This solution was cooled to room temperature. The resulting solidified material was dissolved in water (200 mL). The pH was adjusted to approximately 10.3, which resulted in a precipitate. The insoluble material was collected by filtration, rinsed with water to afford 0.781 g (82%) of the title compound: mass spectrum (ion spray): m/z=245 (M+1); 1H NMR (DMSOd6): 10.40 (s, 1H), 8.45 (s, 1H), 6.93 (s, 1H), 6.68 (s, 1H), 6.40 (s, 1H), 2.90 (m, 2H), 2.60 (m, 1H), 2.36 (s, 3H), 2.26 (s, 3H), 2.08 (m, 2H), 1.90 (m, 2H), 1.70 (m, 2H); Calculated for C15H20N2O: C, 73.74; H, 8.25; N, 11.47. Found: C, 73.76; H, 8.15; N, 11.71.

reactant | 5-methoxy-7-methyl-3-(1-methylpiperidin-4-yl)-1H-indole | 3.9 mmole, 1.01 g | COC=1C=C2C(=CNC2=C(C1)C)C1CCN(CC1)C | C16H22N2O
reactant | pyridine hydrochloride | 25 g | Cl.N1=CC=CC=C1
solvent | water | 200 mL | O | H2O
product | 7-Methyl-3-(1-methylpiperidin-4-yl)-1H-indole-5-ol | 0.781 g, 82% | CC=1C=C(C=C2C(=CNC12)C1CCN(CC1)C)O | C15H20N2O
